US07727988B2
1-(3-{(1R,5R)-1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-5-[6-(trifluoromethyl)-2-pyridinyl]-2,4(1H,3H)-pyrimidinedione dihydrochloride (E38)
1-(3-{(1R,5R)-1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-5-[6-(trifluoromethyl)-2-pyridinyl]-2,4(1H,3H)-pyrimidinedione was dissolved in dioxane and then treated with a solution of 4N HCl in dioxane (2 eq) to give the title compound as a brown oil (23 mg, 15%).

reactant | 1-(3-{(1R,5R)-1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-5-[6-(trifluoromethyl)-2-pyridinyl]-2,4(1H,3H)-pyrimidinedione | C[C@@]12CN(C[C@]2(C1)C1=CC=C(C=C1)C(F)(F)F)CCCN1C(NC(C(=C1)C1=NC(=CC=C1)C(F)(F)F)=O)=O | C26H24F6N4O2
reactant | HCl | 4N | Cl | ClH
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | dioxane | 2 eq | O1CCOCC1 | C4H8O2
product | 1-(3-{(1R,5R)-1-methyl-5-[4-(trifluoromethyl)phenyl]-3-azabicyclo[3.1.0]hex-3-yl}propyl)-5-[6-(trifluoromethyl)-2-pyridinyl]-2,4(1H,3H)-pyrimidinedione dihydrochloride | 23 mg, 15% | Cl.Cl.C[C@@]12CN(C[C@]2(C1)C1=CC=C(C=C1)C(F)(F)F)CCCN1C(NC(C(=C1)C1=NC(=CC=C1)C(F)(F)F)=O)=O | InChI=1S/C26H24F6N4O2.2ClH/c1-23-13-24(23,16-6-8-17(9-7-16)25(27,28)29)15-35(14-23)10-3-11-36-12-18(21(37)34-22(36)38)19-4-2-5-20(33-19)26(30,31)32;;/h2,4-9,12H,3,10-11,13-15H2,1H3,(H,34,37,38);2*1H/t23-,24+;;/m0../s1
